US07309703B2
4-(2-Chloro-6-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (940 mg, 2.75 mmol) in 10 mL of CH2Cl2 was treated with 5 mL of trifluoroacetic acid and stirred at 25° C. for 1 h. The volatiles were then removed. The residue was taken up in CH2Cl2 (60 mL) and KOH (4 N, 20 mL). The organic layer was separated, dried over Na2SO4, and concentrated. The yellow oil was dissolved in CH2Cl2 and added into the 996 mg (2.35 mmol) of 1-(3-oxo-propyl)-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxy lic acid tert-butyl ester. The yellow solution was treated with glacial acetic acid (0.8 mL, 6 eq) and stirred at 25° C. for 1 h. NaBH(OAc)3 (1.5 g, 7.05 mmol) was added and stirred under nitrogen for 2 h. Then saturated NaHCO3 (20 mL) was added and stirred for 30 min, and the layers were separated. The organic extract was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. Column chromatography (silica, 2-5% MeOH/CH2Cl2) afforded 1-{3-[4-(2-chloro-6-nitro-phenyl)-piperazin-1-yl]-propyl}-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester as a white solid (1.40 g, 92%). TLC (silica, 5% MeOH/CH2Cl2): Rf=0.3. MS (electrospray): exact mass calculated for C31H36ClF3N6O4, 648.24; m/z found 649.3 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.69 (d, J=8.2 Hz, 1H), 7.60-7.50 (m, 1H), 7.45-7.37 (m, 4H), 7.02 (t, J=8.2 Hz, 1H), 4.58 (br s, 2H), 4.04 (t, J=6.7 Hz, 2H), 3.73-3.65 (m, 2H), 3.05-2.95 (m, 4H), 2.71 (t, J=5.6 Hz, 2H), 2.50-2.35 (m, 4H), 2.30 (t, J=6.8 Hz, 2H), 2.05-1.95 (m, 2H), 1.41 (s, 9H).

reactant | 4-(2-Chloro-6-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 2.75 mmol, 940 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1[N+](=O)[O-])Cl | C15H20ClN3O4
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(3-oxo-propyl)-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxy lic acid tert-butyl ester | 2.35 mmol, 996 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCC=O | C21H24F3N3O3
reactant | acetic acid | 0.8 mL, 6 eq | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 7.05 mmol, 1.5 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(2-chloro-6-nitro-phenyl)-piperazin-1-yl]-propyl}-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | 1.40 g, 92% | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCCN2CCN(CC2)C2=C(C=CC=C2[N+](=O)[O-])Cl | C31H36ClF3N6O4
